US04472425
Example 1: N-(2-Butenoyl)-N-(2,4-dimethylthien-3-yl)-alanine-methylester
To 6.39 g (0.03 mol) of N-(2,4-dimethylthien-3-yl-alanine-methylester, 4.15 g (0.03 mol) of K2CO3, 10 ml of water and 100 ml of dichloromethane are added without cooling 3.14 g (0.03 mol) 2-butenoyl chloride.

reactant | 2,4-dimethylthien-3-yl-alanine-methylester | COC([C@@H](NC1=C(SC=C1C)C)C)=O | C10H15NO2S
reactant | K2CO3 | 0.03 mol, 4.15 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 10 ml | O | H2O
reactant | 2-butenoyl chloride | 0.03 mol, 3.14 g | C(C=CC)(=O)Cl | C4H5ClO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(2-Butenoyl)-N-(2,4-dimethylthien-3-yl)-alanine-methylester | COC([C@@H](N(C1=C(SC=C1C)C)C(C=CC)=O)C)=O | C14H19NO3S
